Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lisinopril / iodine
 
Attending: ___
 
Chief Complaint:
Left hemiparesis, facial weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo R-handed woman with history of migraine, vascular risk 
factors who presents as transfer from ___ with L sided 
numbness and dysarthria. 

She had a typical migraine yesterday evening, starting approx. 
1800.  Her typical migraines include bilateral retroorbital pain 
radiating over vertex to bilateral occiput. Throbbing. 
+photophobia. Typically occur 2x/month. Her migraines typically 
last ___ days. Headache much improved but not resolved 
throughout the day today.  She typically takes ibuprofen 800 
daily when she has headache. 
No aura. She has had trouble speaking with migraine ___ times in 
the past. She describes it was both word-finding difficulty and 
difficulty enunciating. 
This occurred last night. Speech was normal ~1800, and was noted 
abnormal ___. Her husband had difficulty understanding her 
speech, similar to what she is currently experiencing in the ED. 
Lasted until she went to bed ~___. The other ___ times she has 
had the speech change with migraine it lasted hours as well. 

Today she woke up 0700, noted her speech sounded slurred. Didn't 
look in the mirror at all this am, but her face felt kind of 
'puffy' or 'like there is plastic on it'. She had a hard time 
pursing lips to put makeup on. Her arm felt kind of limp like 
she slept on it. No tingling, it was rather a lack of sensation, 
though she could feel touch and could use the arm. 
She ate eggs for breakfast but they didn't taste 'right', and 
was rather tasteless. She could taste sweet when she drank 
lemonade and fruit juice. Her tongue felt like there was a 
coating of plastic on it. She later ate grilled chicken around 
noon, which was again rather flavorless. She did also have some 
dribbling of food/drink from the left corner of her mouth. She 
didn't notice any coughing/choking with eating, but has a new 
cough this afternoon. 
She met with a neighbor around 1300, who was worried about the 
slurred speech and pointed out that her L face wasn't moving 
normally. Her friend then convinced her to seek care. 

Her symptoms have been unchanged since onset. 

 
Past Medical History:
Anxiety and panic attacks
migraine
DM
HTN
HLD
 
Social History:
___
Family History:
Brother with MI in ___
Father with several MIs, CABG x3, deceased of another MI. Stroke 
(unsure hemorrhagic or ischemic)
Mom with headaches. 
 
Physical Exam:
General: awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name perform 
serial subtraction of threes from twenty. Speech is fluent with 
normal grammar and syntax. No paraphasic errors. Naming intact 
to low frequency words. Repetition intact. Comprehension intact 
to complex, cross-body commands, though a reverse order command 
is incorrect on first attmept. Normal prosody. 

-Cranial Nerves: PERRL 2.5->1.5. VFF to confrontation. EOMI 
without nystagmus. Left facial droop, including decreased eye 
closure and forehead raise. Hearing intact to conversation. 
decreased taste on anterior ___ of left tongue

- Motor:  Normal bulk and tone. No drift. No tremor nor 
asterixis. Left arm with give-way weakness, full on initial 
maximal impulse
                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   2                        
 R  2  2    2    2   2                           
Plantar response was flexor bilaterally.

-Sensory: Proprioception intact BUE. Intact to LT, temp are 80% 
of normal throughout L hemibody. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with gross and fine 
rapid alternating movements. Cerebellar check without rebound. 

- Gait: deferred
 
Pertinent Results:
___ 09:45PM BLOOD WBC-8.6 RBC-4.27 Hgb-10.9* Hct-33.6* 
MCV-79* MCH-25.5* MCHC-32.4 RDW-15.5 RDWSD-43.8 Plt ___
___ 09:45PM BLOOD Neuts-76.5* Lymphs-18.1* Monos-1.0* 
Eos-3.6 Baso-0.5 Im ___ AbsNeut-6.61* AbsLymp-1.56 
AbsMono-0.09* AbsEos-0.31 AbsBaso-0.04
___ 09:45PM BLOOD Glucose-207* UreaN-22* Creat-0.7 Na-141 
K-4.7 Cl-108 HCO3-20* AnGap-13
___ 09:45PM BLOOD ALT-66* AST-56* AlkPhos-87 TotBili-0.3
___ 09:45PM BLOOD cTropnT-<0.01
___ 07:03AM BLOOD %HbA1c-6.9* eAG-151*
___ 09:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:03AM BLOOD Triglyc-63 HDL-44 CHOL/HD-3.3 LDLcalc-90
___ 09:55PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:55PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
___ 09:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MRI
1. No acute intracranial abnormality. 
  

 
Brief Hospital Course:
___ yo R-handed woman with history of migraine, vascular risk 
factors who presents as transfer from ___ with L sided 
weakness/numbness and dysarthria in setting of migraine. Exam 
with L face/arm/leg weakness and hypoesthesia. 

On re-examination the following morning, she was noted to have 
delayed eye closure of the left side and weak orbicularis oculi 
on the left. There was decreased but trace activation of the 
left lower face. There was decreased taste on the left anterior 
___ of the tongue. There was giveway weakness to the left arm 
and no weakness in the left, notably improved after disclosure 
of the negative results of the MRI. Likely Bell's palsy, 
idiopathic. Sent off Lyme serologies, felt unlikely to be due to 
disseminated lyme. Started prednisone and valacyclovir for 7 day 
course. 

Transitional Issues
[ ] follow up lyme serology
[ ] neurology follow up
[ ] pcp for mildly elevated LDL, A1c
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Losartan Potassium 50 mg PO DAILY 
3. Glumetza (metFORMIN) 500 mg oral TID W/MEALS 
4. Glargine 46 Units Bedtime
5. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY Duration: 7 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0 
2.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times daily 
Disp #*21 Tablet Refills:*0 
3.  Glargine 46 Units Bedtime 
4.  Atorvastatin 20 mg PO QPM  
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  Glumetza (metFORMIN) 500 mg oral TID W/MEALS  
7.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bell's palsy, likely idiopathic
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted with facial asymmetry. MRI did not show 
stroke. Your examination is most consistent with a Bell's palsy, 
which is likely due to an inflammation of one of the nerves in 
your face. For this, we recommend taking 7 days of prednisone 
and valacyclovir, which can improve the rate of improvement of 
your symptoms.

If your symptoms become worse or you develop new symptoms, 
please call your PCP or go to the nearest emergency department.

Please follow up with your PCP. We will schedule a neurology 
appointment for you.

It was a pleasure taking care of you.

Sincerely, 
___ Neurology
 
Followup Instructions:
___